US07786113B2
[2-(3-Acetylamino-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-carbamic acid isopropyl ester
Was prepared analogously to example 9-2 starting from 3-(acetylamino)phenylacetylene. In the preparation of the intermediate N-[3-(5-nitro-1H-pyrrolo[2,3-b]pyridin-2-yl)-phenyl]-acetamide by cyclization reaction an higher equimolar amount of base (Potassium tert-butoxide) as in Example 2-2 is needed:

reactant | 3-(acetylamino)phenylacetylene | C(C)(=O)NC=1C=C(C=CC1)C#C | C10H9NO
reactant | N-[3-(5-nitro-1H-pyrrolo[2,3-b]pyridin-2-yl)-phenyl]-acetamide | [N+](=O)([O-])C=1C=C2C(=NC1)NC(=C2)C=2C=C(C=CC2)NC(C)=O | C15H12N4O3
reactant | Potassium tert-butoxide | CC(C)([O-])C.[K+]
product | [2-(3-Acetylamino-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-carbamic acid isopropyl ester | C(C)(C)OC(NC=1C=C2C(=NC1)NC(=C2)C2=CC(=CC=C2)NC(C)=O)=O | C19H20N4O3
